US04927958
A solution of 6.5 ml (0.11 mol) of 2-propyn-1-ol in 80 ml of tetrahydrofuran was treated at -78° under argon with 13.5 g (0.12 mol) of potassium tert.-butylate. The mixture was stirred at -78° for 3 hours, 14.1 ml (0.12 mol) of 3,3-dimethylallyl bromide were then added and the mixture was again stirred at -78° for 3 hours and at room temperature for 20 hours. The reaction mixture was poured into ice/water and extracted twice with ether. The combined organic phases were dried over magnesium sulphate and concentrated. There was obtained 1-[(3-methyl-2-butenyl)oxy]-2-propyne as a yellow oil which is processed without purification.

reactant | 2-propyn-1-ol | 0.11 mol, 6.5 ml | C(C#C)O | C3H4O
reactant | 3,3-dimethylallyl bromide | 0.12 mol, 14.1 ml | CC(=CCBr)C | C5H9Br
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 1-[(3-methyl-2-butenyl)oxy]-2-propyne | CC(=CCOCC#C)C | C8H12O
